US06992087B2
(1R,2S)-1-{[3-bromo-5-(2,4-dichlorophenyl)-6-methoxypyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of methyl 3-bromo-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate but substituting (1R,2S)-1-{[5-(2,4-dichlorophenyl)-6-methoxypyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 3.09-3.13, 3.29-3.34, 3.92, 4.81, 5.60-5.63, 5.99, 7.33-7.42, 7.49; MS (ESI+) for C20H16BrCl2N3O2 m/z 479 (M+H)+.

reactant | methyl 3-bromo-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate | BrC=1C(=NC(=CN1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C(=O)OC | C15H14BrN3O3
reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-6-methoxypyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=CC(=NC1OC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C20H17Cl2N3O2
product | (1R,2S)-1-{[3-bromo-5-(2,4-dichlorophenyl)-6-methoxypyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | BrC=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)OC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C20H16BrCl2N3O2
